US05772990
3.4 g of 2-amino-4-methylamino-6-chloropyrimidine 3-oxide are suspended in 70 ml of ethanol. 4.15 g of pyrrolidine are added. The reaction mixture is refluxed for 7 hours. After it has returned to room temperature, 1.30 g of potassium hydroxide are added as an 85% solution in 15 ml of ethanol. After 1 hour's stirring the mixture is filtered on paper. The filtrates are evaporated to dryness. The residue obtained is recrystallized from 50 ml of a 9/1 acetonitrile-water mixture. 2.40 g of 2-amino-4-methylamino-6-pyrrolidinopyrimidine 3-oxide are obtained.

reactant | 2-amino-4-methylamino-6-chloropyrimidine 3-oxide | 3.4 g | NC1=NC(=CC(=[N+]1[O-])NC)Cl | C5H7ClN4O
reactant | pyrrolidine | 4.15 g | N1CCCC1 | C4H9N
reactant | potassium hydroxide | 1.30 g | [OH-].[K+]
solvent | ethanol | 70 ml | C(C)O | C2H6O
solvent | ethanol | 15 ml | C(C)O | C2H6O
product | 2-amino-4-methylamino-6-pyrrolidinopyrimidine 3-oxide | 2.40 g, Yield=56% | NC1=NC(=CC(=[N+]1[O-])NC)N1CCCC1 | C9H15N5O
